US08486952B2
The mixture of 3-(3,5-difluorophenyl)dihydro-2H-pyran-4(3H)-one (Preparation X2) (800 mg, 3.77 mmol) and carbonisocyanatidic chloride (557 mg, 5.28 mmol) was heated in a sealed bottle at 55° C. for 1 h and then at 130° C. for 2 h. The mixture was cooled to RT. Partition between EtOAc and saturated NaHCO3 solution. Extracted with EtOAc(×3 times). The combined organic layers was washed with brine, dried over Na2SO4 and concentrated. The crude product was purified by column chromatography on silica gel to give 8-(3,5-difluorophenyl)-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione (230 mg, 0.818 mmol, 21.69% yield). LC-MS (M+H)+=282.0. 1H NMR (500 MHz, CDCl3) δ ppm 8.94 (br, s., 1H) 6.85-7.01 (m, 2H) 6.81 (tt, J=8.81, 2.17 Hz, 1H) 4.70 (d, J=15.56 Hz, 1H) 4.49 (dd, J=15.56, 2.14 Hz, 1H) 4.03-4.12 (m, 2H) 3.68 (br. s., 1H)

reactant | 3-(3,5-difluorophenyl)dihydro-2H-pyran-4(3H)-one | 3.77 mmol, 800 mg | FC=1C=C(C=C(C1)F)C1COCCC1=O | C11H10F2O2
reactant | carbonisocyanatidic chloride | 5.28 mmol, 557 mg | C(=O)(N=C=O)Cl | C2ClNO2
product | 8-(3,5-difluorophenyl)-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione | 0.818 mmol, 230 mg, 21.69% yield | FC=1C=C(C=C(C1)F)C1COCC=2C(NC(OC21)=O)=O | C13H9F2NO4
